US05349095
4-Formylbenzocyclobutene is reduced with sodium borohydride in water, containing 1% by weight of sodium hydroxide. 4-Hydroxymethylbenzocyclobutene is obtained.

reactant | 4-Formylbenzocyclobutene | C(=O)C1=C2C(CC2)=CC=C1 | C9H8O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Hydroxymethylbenzocyclobutene | OCC1=C2C(CC2)=CC=C1 | C9H10O
